US07399867B2
Dissolve 4-methanesulfonyl-3-methoxy-phenol (3.24 g, 19.04 mmol), 2,6-lutidine (4.08 g, 38.08 mmol) and DMAP (230 mg, 1.9 mmol) in CH2Cl2 (190 mL). Cool the solution to −78° C. and then add trifluoromethanesulfonic acid anhydride (Tf2O, 6.44 g, 22.85 mmol), dropwise. Stir the reaction mixture for 6 hours. Add water (200 mL) and extract the aqueous layer with EtOAc (3×200 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 10-30% of EtOAc/hexane) to give 4.6 g of trifluoro-methanesulfonic acid 4-methanesulfonyl-3-methoxy-phenyl ester (72%).

reactant | 4-methanesulfonyl-3-methoxy-phenol | 19.04 mmol, 3.24 g | CS(=O)(=O)C1=C(C=C(C=C1)O)OC | C8H10O4S
reactant | 2,6-lutidine | 38.08 mmol, 4.08 g | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid anhydride | 22.85 mmol, 6.44 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | DMAP | 1.9 mmol, 230 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 190 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-methanesulfonyl-3-methoxy-phenyl ester | 4.6 g, 72% | CS(=O)(=O)C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)OC | C9H9F3O6S2
